US08440689B2
A. 4,6-Dichloro-7-fluoro-1-hydroxyfuro[3,4-c]pyridin-3(1H)-one
To a butyllithium-hexane solution (100 mL, 160 mmol) in THF (200 mL) was slowly added diisopropylamine (27.4 mL, 192 mmol) in THF (15 mL) at −78° C. The mixture was stirred at the same temperature for 15 min. A solution of 2,6-dichloro-5-fluoronicotinic acid (14.98 g, 71.4 mmol) in THF (15 mL) was added and the mixture was stirred for 2 h. Next, DMF (29.3 mL, 378 mmol) was added and the mixture was stirred for 1 h. Hydrochloric acid (1N, 400 mL) was added and the mixture was subsequently extracted with EtOAc (2×300 mL). The organic phase was basified with saturated aq NaHCO3 solution and the aqueous phase was separated. The aqueous phase was re-acidified with 1N HCl (300 mL) and extracted with EtOAc (2×300 mL). The organic phase was washed with H2O (200 mL) and brine (200 mL), dried over MgSO4, and evaporated. The residue was washed with Hexane/EtOAc (1/8) to give the title compound as a white solid (11.5 g, 67.7%). 1H NMR (500 MHz, DMSO-d6) δ ppm 6.85 (br s, 1H), 8.82 (br s, 1H).

reactant | butyllithium hexane | 160 mmol, 100 mL | C(CCC)[Li].CCCCCC
reactant | diisopropylamine | 192 mmol, 27.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2,6-dichloro-5-fluoronicotinic acid | 71.4 mmol, 14.98 g | ClC1=C(C(=O)O)C=C(C(=N1)Cl)F | C6H2Cl2FNO2
reactant | DMF | 378 mmol, 29.3 mL | CN(C)C=O | C3H7NO
reactant | Hydrochloric acid | 1N, 400 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4,6-Dichloro-7-fluoro-1-hydroxyfuro[3,4-c]pyridin-3(1H)-one | 11.5 g, 67.7% | ClC1=NC(=C(C2=C1C(OC2O)=O)F)Cl | C7H2Cl2FNO3
